US07897762B2
Zn Dust (0.575 g, 8.80 mmol) was added to a suspension of 7-chloro-3-(4-fluoro-2-methyl-5-nitrophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (0.309 g, 0.880 mmol) and NH4Cl (0.471 g, 8.80 mmol in MeOH/THF (1:1, 16 mL) and the mixture was stirred 1.5 h at RT. The mixture was filtered through Celite, rinsing forward with MeOH and the filtrates were concentrated, diluted with brine and extracted with THF (2×). The combined organics layers were washed with brine, dried (MgSO4), and concentrated to afford 3-(5-amino-4-fluoro-2-methylphenyl)-7-chloro-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (0.260 g, 92% yield). MS (ESI) m/z: 321.0 [M+H+].

reactant | 7-chloro-3-(4-fluoro-2-methyl-5-nitrophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 0.880 mmol, 0.309 g | ClC1=CC=2N(C(N(CC2C=N1)C1=C(C=C(C(=C1)[N+](=O)[O-])F)C)=O)C | C15H12ClFN4O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | MeOH THF | 16 mL | CO.C1CCOC1
catalyst | Zn | 8.80 mmol, 0.575 g | [Zn] | Zn
product | 3-(5-amino-4-fluoro-2-methylphenyl)-7-chloro-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 0.260 g, 92% yield | NC=1C(=CC(=C(C1)N1C(N(C2=C(C1)C=NC(=C2)Cl)C)=O)C)F | C15H14ClFN4O
